### PR TITLE
fix(ErdosProblems/480): typo

### LINKED ISSUE #1282: Erdős problem 480 trivial proof
### Describe the misformalization
This issue concerns Erdős problem 480, available at https://www.erdosproblems.com/480

Aristotle (from Harmonic) found a simple proof of the conjecture by setting n = 0.

The current statement https://github.com/google-deepmind/formal-conjectures/blob/f33f5ddb49f6077e34025917965bcd1bbd920d73/FormalConjectures/ErdosProblems/480.lean#L27-L37 assumes that m ≠ 0 but meant to say n ≠ 0.

### Trivial proof/disproof

https://github.com/plby/lean-proofs/blob/e23a8884095b13506a3dd297b58d60d6335f1637/src/v4.24.0/ErdosProblems/Erdos480x.lean#L22-L29

```
import Mathlib

theorem misformalized_erdos_480 :
  (∀ (x : ℕ → ℝ), (∀ n, x n ∈ Set.Icc 0 1) →
    {(m, n) | (m) (n) (_ : m ≠ 0) (_ : |x (m + n) - x m| ≤ 1 / (√5 * n))}.Infinite) := by
  -- Let's choose any $x \in \ell^\infty$.
  intro x hx;
  refine Set.infinite_of_injective_forall_mem ( fun m n hmn => by aesop ) fun m => ⟨ m + 1, 0, ?_, ?_, rfl ⟩ <;> norm_num
```

### Suggested fix
Change m ≠ 0 to n ≠ 0.

### Additional context
There was a little bit of interaction here with the "garbage" value 1/0 = 0 in Mathlib, which could have helped spot the error.

### Choose either option
- [ ] I plan on working on this issue
- [x] This issue is up for grabs: I would like to see this misformalization fixed by somebody else

### PR DESCRIPTION
**Pull request by mo271**
fixes #1282

### CODE REVIEW

File: FormalConjectures/ErdosProblems/480.lean [hunk 1]
```diff
@@ -45,7 +45,7 @@ and $F_m$ is the $m$th Fibonacci number. This constant is best possible.
 theorem erdos_480.variants.chung_graham :
     let c : ℝ := 1 + ∑' (k : ℕ+), (1 : ℝ) / (2*k : ℕ).fib
     IsGreatest {C : ℝ | C > 0 ∧ ∀ (x : ℕ → ℝ) (hx : ∀ n, x n ∈ Set.Icc 0 1),
-      ∀ ε ∈ Set.Ioo 0 C, ∃ n, {m | m ≠ 0 ∧ |x (n + m) - x m| < 1 / ((C - ε) * n)}.Infinite}
+      ∀ ε ∈ Set.Ioo 0 C, ∃ n, {m | n ≠ 0 ∧ |x (n + m) - x m| < 1 / ((C - ε) * n)}.Infinite}
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/480.lean]: Could we restate this using an actual liminf?

**Comment by mo271** [comment]
Seems like the problems on erdosproblems.com were completely re-formulating, updated to track this, also added a variant for "best possible"

File: FormalConjectures/ErdosProblems/480.lean (hunk 1 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/480.lean]: done

File: FormalConjectures/ErdosProblems/480.lean [hunk 2]
```diff
@@ -24,29 +24,41 @@ import FormalConjectures.Util.ProblemImports
...
+/--
+Let $x_1,x_2,\ldots\in [0,1]$ be an infinite sequence.
+Is it true that
+$$\inf_n \liminf_{m\to \infty} n \lvert x_{m+n}-x_m\rvert\leq 5^{-1/2}\approx 0.447?$$
+A conjecture of Newman.
 -/
 @[category research solved, AMS 11]
 theorem erdos_480 : answer(True) ↔ ∀ (x : ℕ → ℝ), (∀ n, x n ∈ Set.Icc 0 1) →
-    {(m, n) | (m) (n) (_ : m ≠ 0) (_ : |x (m + n) - x m| ≤ 1 / (√5 * n))}.Infinite := by
+    ⨅ n, atTop.liminf (fun m => n *|x (m + n) - x m|) ≤  1 / √5 := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/480.lean]:
```suggestion
    ⨅ n, atTop.liminf (fun m => n * |x (m + n) - x m|) ≤ 1 / √5 := by
```

File: FormalConjectures/ErdosProblems/480.lean [hunk 3]
```diff
@@ -24,29 +24,41 @@ import FormalConjectures.Util.ProblemImports
...
+and $F_m$ is the $m$th Fibonacci number.
 -/
 @[category research solved, AMS 11]
 theorem erdos_480.variants.chung_graham :
     let c : ℝ := 1 + ∑' (k : ℕ+), (1 : ℝ) / (2*k : ℕ).fib
-    IsGreatest {C : ℝ | C > 0 ∧ ∀ (x : ℕ → ℝ) (hx : ∀ n, x n ∈ Set.Icc 0 1),
-      ∀ ε ∈ Set.Ioo 0 C, ∃ n, {m | m ≠ 0 ∧ |x (n + m) - x m| < 1 / ((C - ε) * n)}.Infinite}
-    c := by
+    ∀ (x : ℕ → ℝ), (∀ n, x n ∈ Set.Icc 0 1) →
+    ⨅ n, atTop.liminf (fun m => n *|x (m + n) - x m|) ≤  1 / c := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/480.lean]:
```suggestion
    ⨅ n, atTop.liminf (fun m => n * |x (m + n) - x m|) ≤ 1 / c := by
```

File: FormalConjectures/ErdosProblems/480.lean [hunk 4]
```diff
@@ -24,29 +24,41 @@ import FormalConjectures.Util.ProblemImports
...
+  sorry
+
+/--
+They also prove that this constant is best possible.
+-/
+@[category research solved, AMS 11]
+theorem erdos_480.variants.chung_graham_best_possible :
+    let c : ℝ := 1 + ∑' (k : ℕ+), (1 : ℝ) / (2*k : ℕ).fib
+    ∀ ε > (0 : ℝ), ¬ (∀ (x : ℕ → ℝ), (∀ n, x n ∈ Set.Icc 0 1) →
+    ⨅ n, atTop.liminf (fun m => n *|x (m + n) - x m|) ≤  1 / c - ε) := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/480.lean]:
```suggestion
    ⨅ n, atTop.liminf (fun m => n * |x (m + n) - x m|) ≤ 1 / c - ε) := by
```
